US05436233
6-chloro-(1H,3H)-quinazolin-2,4-dione
To a solution of 5-chloroanthranilamide (3.4 g)in tetrahydrofuran (50 mL) was added phosgene (16 mL, 1.93M solution in toluene) via an addition funnel. The reaction mixture was stirred at room temperature for 4 hours and then heated to reflux for another two hours. The reaction mixture was concentrated to a total volume about 10 mL. After cooling, the title compound (3.72 g) having the following physical data, was collected by filtration and dried in vacuum.

reactant | 5-chloroanthranilamide | 3.4 g | ClC1=CC=C(C(C(=O)N)=C1)N | C7H7ClN2O
reactant | phosgene | 1.93M, 16 mL | C(=O)(Cl)Cl | CCl2O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 6-chloro-(1H,3H)-quinazolin-2,4-dione | ClC=1C=C2C(NC(NC2=CC1)=O)=O | C8H5ClN2O2
